US03984465
Step E: 2,2-Dimethyl-5-methoxy-6,7-dichloro-1-indanone
A stirred suspension of 2-methyl-5-methoxy-6,7-dichloro-1-indanone (12.2 g., 0.05 mole) and sodium hydride (1.43 g., 0.06 mole) in anhydrous 1,2-dimethoxyethane (500 ml.) is heated in an inert atmosphere at 80°-85° C. for one hour, cooled to 30°C. and treated with methyl iodide (8 ml.) The reaction mixture is refluxed for 15 minutes, then the solvent is distilled at reduced pressure. The crude product is poured into water (500 ml.), extracted into ether, washed with water and dried over magnesium sulfate. After evaporation of the ether the product is crystallized from methylcyclohexane affording 8.2 g. of 2,2-dimethyl-5-methoxy-6,7-dichloro-1-indanone which melts at 142° C.

reactant | 2-methyl-5-methoxy-6,7-dichloro-1-indanone | 0.05 mole, 12.2 g | CC1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C11H10Cl2O2
reactant | sodium hydride | 0.06 mole, 1.43 g | [H-].[Na+]
reactant | methyl iodide | 8 ml | CI | CH3I
solvent | 1,2-dimethoxyethane | 500 ml | COCCOC | C4H10O2
product | 2,2-Dimethyl-5-methoxy-6,7-dichloro-1-indanone | CC1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C | C12H12Cl2O2
